US06133277
A mixture of (-)-(R)-3,4-dihydro-2H-1-benzopyran-2-carbonyl chloride (0.2 mol) and magnesium oxide (40 g) in ethyl acetate (350 ml) was hydrogenated at 25° C. with palladium on activated carbon (10%) (5 g) as a catalyst in the presence of a solution (4%) of thiophene in methanol (5 ml). After uptake of H2 (1 eq.), the catalyst was filtered off and the filtrate was collected in a mixture of potassium acetate (7 g) in methanol (200 ml). A mixture of 1-(3-aminopropyl)-tetrahydro-2(1H)pyrimidinone (0.2 mol) in methanol (200 ml) was added and the mixture was hydrogenated (16 hours at 25° C.; 16 hours at 50° C.) with rhodium on activated carbon (5%, 3 g) as a catalyst in the presence of a solution (4%) of thiophene in methanol (3 ml). After uptake of hydrogen, the catalyst was filtered off and the filtrate was evaporated. The residue was stirred in water, treated with 50% NaOH, and extracted with DCM. The separated organic layer was dried, filtered and the solvent evaporated. The residue was stood overnight in 2-propanone (500 ml). The supernatant was decanted off and the residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /(CH3OH/NH3) 95/5). The desired fractions were collected and their solvent was evaporated, yielding (R)-1-[3-[[(3,4-dihydro-2H-1-benzopyran-2-yl)-methyl]amino]propyl]tetrahydro-2(1H)-pyrimidinone (comp. 2).

reactant | (-)-(R)-3,4-dihydro-2H-1-benzopyran-2-carbonyl chloride | 0.2 mol | O1[C@H](CCC2=C1C=CC=C2)C(=O)Cl | C10H9ClO2
reactant | magnesium oxide | 40 g | [O-2].[Mg+2]
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | 1-(3-aminopropyl)-tetrahydro-2(1H)pyrimidinone | 0.2 mol | NCCCN1C(NCCC1)=O | C7H15N3O
solvent | ethyl acetate | 350 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | 5 g | [Pd] | Pd
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
catalyst | rhodium | [Rh] | Rh
product | (R)-1-[3-[[(3,4-dihydro-2H-1-benzopyran-2-yl)-methyl]amino]propyl]tetrahydro-2(1H)-pyrimidinone | O1[C@H](CCC2=C1C=CC=C2)CNCCCN2C(NCCC2)=O | C17H25N3O2
